US08729271B2
N-[4-Fluoro-3-(pyridin-2-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide
A mixture of N-[4-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide (100 mg), 2-bromopyridine (47 mg), tetrakis(triphenylphosphine)palladium (29 mg), potassium carbonate (69 mg), dimethylformamide (1.0 mL) and ethanol (0.5 mL) was stirred under irradiation with microwave while heating at 150° C. for 50 min. After the mixture was diluted with ethyl acetate, the insoluble matter was filtered off, and the solvent was distilled off under reduced pressure. The residue was diluted with ethyl acetate, and then washed with water and brine. The organic phase was collected and dried over sodium sulfate, the desiccant was filtered off and the solvent was then distilled off under reduced pressure. The resulting residue was purified by column chromatography (NH silica gel cartridge, hexane:ethyl acetate=75:25-0:100) and (silica gel cartridge, chloroform:methanol=100:0-98:2) to afford the title compound (25 mg).

reactant | N-[4-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide | 100 mg | FC1=C(C=C(CN(C(=O)C=2N=CN(C2)C)C(C)C)C=C1)B1OC(C(O1)(C)C)(C)C | C21H29BFN3O3
reactant | 2-bromopyridine | 47 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | N-[4-Fluoro-3-(pyridin-2-yl)benzyl]-1-methyl-N-(propan-2-yl)-1H-imidazole-4-carboxamide | 25 mg | FC1=C(C=C(CN(C(=O)C=2N=CN(C2)C)C(C)C)C=C1)C1=NC=CC=C1 | C20H21FN4O
